US04808599
The reaction is carried out as in Example 1, but starting with 7-phenylbenzo[b]thiophene-5-carboxylic acid (2.5 g) in toluene (25 cc) and thionyl chloride (2.2 cc) and then triethylamine (4.15 cc) and piperidine (0.97 cc) in toluene (25 cc). After two successive chromatographies of the residue on silica gel, the first with a cyclohexane:ethyl acetate (80:10:10 by volume) mixture as the eluent and the second with a cyclohexane:ethyl acetate (70:30 by volume) mixture as the eluent, a residue is isolated, which is stirred for 1 hour in 40°-60° petroleum spirit. After filtering and drying, 1-[(7-phenylbenzo[b]thien-5-yl)carbonyl]piperidine (1.55 g), m.p. 112° C., is isolated.

reactant | 7-phenylbenzo[b]thiophene-5-carboxylic acid | 2.5 g | C1(=CC=CC=C1)C1=CC(=CC2=C1SC=C2)C(=O)O | C15H10O2S
reactant | triethylamine | 4.15 cc | C(C)N(CC)CC | C6H15N
reactant | piperidine | 0.97 cc | N1CCCCC1 | C5H11N
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
solvent | toluene | 25 cc | C1(=CC=CC=C1)C | C7H8
solvent | thionyl chloride | 2.2 cc | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 25 cc | C1(=CC=CC=C1)C | C7H8
product | 1-[(7-phenylbenzo[b]thien-5-yl)carbonyl]piperidine | 1.55 g | C1(=CC=CC=C1)C1=CC(=CC2=C1SC=C2)C(=O)N2CCCCC2 | C20H19NOS
